US07625905B2
Preparation of (4,6-Dimethyl-pyrimidin-5-yl)-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-methanone (38 Ar2=4,6-dimethyl-pyrimidin-5-yl)
The following were prepared analogously from (4,6-dimethyl-pyrimidin-5-yl)-{5-[2-(3-phenyl-azetidin-3-yl)-ethyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl}-methanone using the sulfonyl chloride in parenthesis in place of cyclopentanesulfonyl chloride in the final step: II-2 (m-fluoro-phenylsulfonyl chloride), II-19 (iso-propylsulfonyl chloride) and II-20 (cyclopropyl sulfonyl chloride).

reactant | (4,6-dimethyl-pyrimidin-5-yl)-{5-[2-(3-phenyl-azetidin-3-yl)-ethyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl}-methanone | CC1=NC=NC(=C1C(=O)N1CC2CN(CC2C1)CCC1(CNC1)C1=CC=CC=C1)C | C24H31N5O
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | cyclopentanesulfonyl chloride | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | m-fluoro-phenylsulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | II-19 | C1=CC=C(C(=C1)C#N)C2=NC3=C(O2)N=CC=C3 | C13H7N3O
reactant | cyclopropyl sulfonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
product | (4,6-Dimethyl-pyrimidin-5-yl)-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-methanone | CC1=NC=NC(=C1C(=O)N1CC2CNCC2C1)C | C13H18N4O
